US05053072
4-Methoxy-6-methylpyrimidine-2-carboxylic acid
A solution of 11.5 g of sodium hydroxide in 156 ml of ethanol and 78 ml of water is added to a stirred solution of 51.5 g of ethyl 4-methoxy-6-methylpyrimidine-2-carboxylate in 280 ml of ethanol. Stirring is continued for 12 hours at room temperature, and the sodium salt of the carboxylic acid, which has precipitated, is filtered off with suction. The sodium salt is transferred to a solution of 17.3 g of acetyl chloride in 220 ml of methanol, and the sodium chloride, which has precipitated, is filtered off with suction. The methanolic solution is evaporated on a rotary evaporator. This gives 30.9 g of 4-methoxy-6-methylpyrimidine-2-carboxylic acid of melting point 140°-141° C. as the residue.

reactant | sodium hydroxide | 11.5 g | [OH-].[Na+]
reactant | ethyl 4-methoxy-6-methylpyrimidine-2-carboxylate | 51.5 g | COC1=NC(=NC(=C1)C)C(=O)OCC | C9H12N2O3
solvent | ethanol | 156 ml | C(C)O | C2H6O
solvent | water | 78 ml | O | H2O
solvent | ethanol | 280 ml | C(C)O | C2H6O
product | 4-Methoxy-6-methylpyrimidine-2-carboxylic acid | COC1=NC(=NC(=C1)C)C(=O)O | C7H8N2O3
